US07217723B2
(2 S)-Methoxyphenyl acetic acid (1 S)-2-(t-butoxycarbonyl-methylamino)-1-(4-fluorophenyl)ethyl ester
To a solution of [2-(4-fluorophenyl)-2-hydroxyethyl]methyl-carbamic acid t-butyl ester (the compound of Preparation Example 32) (8.46 g) and (S)-(+)-α-methoxyphenyl acetic acid (5.74 g) in dichloromethane (60 mL) was added 4-dimethylaminopyridine (0.19 g) and N,N-dicyclohexylcarbodiimide (7.7 g) on an ice bath. The solution was stirred for 3.5 hours while being slowly warmed to room temperature. When the reaction solution was developed with silica gel TLC (hexane/ethyl acetate=4:1), two products could be identified. After diluting with diethyl ether, the insoluble matter was removed by Celite filtration. The residue that was obtained upon removing the solvent by evaporation was purified by silica gel column chromatography (hexane/ethyl acetate), the (S, S) isomer (the compound that demonstrates a high Rf value in TLC) (3.60g) was obtained from the low polarity elution portion. The NMR suggested that it was a mixture of rotamers. The three-dimensional structure was determined from the NMR data by applying the Mosher method.

reactant | [2-(4-fluorophenyl)-2-hydroxyethyl]methyl-carbamic acid t-butyl ester | C(C)(C)(C)OC(N(C)CC(O)C1=CC=C(C=C1)F)=O | C14H20FNO3
reactant | (S)-(+)-α-methoxyphenyl acetic acid | 5.74 g | CO[C@H](C(=O)O)C1=CC=CC=C1 | C9H10O3
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.19 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2 S)-Methoxyphenyl acetic acid (1 S)-2-(t-butoxycarbonyl-methylamino)-1-(4-fluorophenyl)ethyl ester | C(C)(C)(C)OC(=O)N(C[C@H](C1=CC=C(C=C1)F)OC([C@H](C1=CC=CC=C1)OC)=O)C | C23H28FNO5
